US04282242
Under nitrogen, N-chlorosuccinimide (5.34 g., 40 mmoles) was slurried in 50 ml. of carbon tetrachloride and the stirred mixture cooled in an ice-water bath. o-Chlorothiophenol (5.76 g., 40 mmoles), dissolved in 25 ml. of carbon tetrachloride, was added dropwise. The ice-water bath was removed and the reaction mixture stirred at room temperature for approximately 16 hours. The reaction was filtered, evaporated to an oil, taken up in hexane, refiltered and reconcentrated to yield o-chlorobenzenesulfenyl chloride (6.8 g., oil).

reactant | N-chlorosuccinimide | 40 mmoles, 5.34 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | o-Chlorothiophenol | 40 mmoles, 5.76 g | ClC1=C(C=CC=C1)S | C6H5ClS
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | o-chlorobenzenesulfenyl chloride | 6.8 g | ClC1=C(C=CC=C1)SCl | C6H4Cl2S
